US07622605B2
Step 1: (4-Bromo-2-ethyl-benzyloxy)-tert-butyl-dimethyl-silane
To a solution of (4-bromo-2-ethyl-phenyl)-methanol in anhydrous DMF was added TBSCl (1.5 eq.) and imidazole (1.5 eq). The mixture was stirred at that temperature for 12 hours before it was diluted with water. The mixture was extracted with Et2O and the combined organic layers were washed with H2O, brine, dried over MgSO4. The solvent was removed in vacuo to give the desired product. (93% yield). 1H NMR (300 MHz, CDCl3): δ 0.09 (s, 6H), 0.92 (s, 9H), 1.20 (t, J=7.5 Hz, 3H), 2.57 (q, J=7.5 Hz, 2H), 4.67 (s, 2H), 7.29 (s, 3H).

reactant | (4-bromo-2-ethyl-phenyl)-methanol | BrC1=CC(=C(C=C1)CO)CC | C9H11BrO
reactant | TBSCl | 1.5 eq. | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 1.5 eq | N1C=NC=C1 | C3H4N2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (4-Bromo-2-ethyl-benzyloxy)-tert-butyl-dimethyl-silane | 93% yield | BrC1=CC(=C(CO[Si](C)(C)C(C)(C)C)C=C1)CC | C15H25BrOSi
